US07799810B2
Step 3: 1-{4-[2-(Benzhydrylidene-amino)-4-methyl-thiazol-5-yl]-phenyl}-ethanone
4-Acetylphenyl boronic acid (1.8 g, 0.011 mol, 1.1 eq), tetrakistriphenylphosphine palladium(0) (0.7 g, 0.6 mmol), caesium carbonate (9.8 g, 0.03 mol) in water (10 ml), are added to a solution of benzhydrylidene-(5-bromo-4-methyl-thiazol-2-yl)-amine (3.5 g, 0.01 mol) in dioxane (80 ml) and heated at reflux for 6 h. The solvent is removed in vacuo, to yield an oily suspension which is partitioned between DCM (75 ml) and sat. sodium bicarbonate (75 ml). The layers are separated and the organics washed with water (75 ml) and brine (75 ml), dried (MgSO4 and charcoal), filtered and evaporated to a brown solid.

reactant | 4-Acetylphenyl boronic acid | 0.011 mol, 1.8 g, 1.1 eq | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | caesium carbonate | 0.03 mol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzhydrylidene-(5-bromo-4-methyl-thiazol-2-yl)-amine | 0.01 mol, 3.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1SC(=C(N1)C)Br | C17H13BrN2S
solvent | water | 10 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 1-{4-[2-(Benzhydrylidene-amino)-4-methyl-thiazol-5-yl]-phenyl}-ethanone | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1SC(=C(N1)C)C1=CC=C(C=C1)C(C)=O | C25H20N2OS
